US05364871
A mixture of cyclobutanecarboxylic acid (0.5 ml), 1-hydroxybenzotriazole hydrate (0.8 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.0 g) in N,N-dimethylformamide (5 ml) was stirred for 1 hour at ambient temperature. The above mixture was added to a mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (1.5 g) and triethylamine (1.8 ml) in N,N-dimethylformamide (15 ml) and the mixture was sitrred for 20 hours at ambient temperature. The reaction mixture was added a mixture of ethyl acetate tetrahydrofuran and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and the residue was recrystallized from a mixture of N,N-dimethylformamide and ethyl acetate to give 4-(6-cyclobutanecarbonylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole (0.86 g).

reactant | cyclobutanecarboxylic acid | 0.5 ml | C1(CCC1)C(=O)O | C5H8O2
reactant | 1-hydroxybenzotriazole hydrate | 0.8 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.0 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.5 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate tetrahydrofuran | O1CCCC1.C(C)(=O)OCC
solvent | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
product | 4-(6-cyclobutanecarbonylaminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole | 0.86 g | C1(CCC1)C(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | C15H18N6OS
